US20010056123A1
Step 2 Synthesis of 4-(3,4-dimethoxybenzoyl)benzoic acid:
1.3 g (4.33 mmol) of methyl 4-(3,4-dimethoxybenzoyl)benzoate was dissolved in 50 ml of ethanol. 7 ml of 1 N sodium hydroxide solution was added to the obtained solution, and they were stirred overnight. The solvent was evaporated, and the residue was washed with ethyl acetate and then filtered to obtain the title compound.

reactant | methyl 4-(3,4-dimethoxybenzoyl)benzoate | 4.33 mmol, 1.3 g | COC=1C=C(C(=O)C2=CC=C(C(=O)OC)C=C2)C=CC1OC | C17H16O5
reactant | sodium hydroxide | 1 N, 7 ml | [OH-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-(3,4-dimethoxybenzoyl)benzoic acid | COC=1C=C(C(=O)C2=CC=C(C(=O)O)C=C2)C=CC1OC | C16H14O5
